US05672709
(±)-3-Butyloxy-4-(3-pyrrolidinyloxy)-1,2,5-thiadiazole
A suspension of NaH (0.066 g, 0.0028 mol) in THF (25 mL) was treated with 1-t-butylcarbamoyl-3-hydroxypyrrolidine (Ref. Syn. Commun. 15, 587) (0.5 g, 0.0027 mol) and the reaction warmed to 50° C. for 30 min. After cooling to ambient temperature, 3-butyloxy-4-methanesulfonyl-1,2,5-thiadiazole (0.55 g, 0.0027 mol) in THF (5 mL) was added and the reaction heated to reflux for 2.5 h. The solvent was evaporated, the residue treated with ice-water, and the mixture extracted with ether. The extracts were washed with brine, dried, and the solvent evaporated. The residue was dissolved in ether (50 mL) and treated with a slow stream of HCl for 5 min. After stirring overnight, the reaction was extracted with cold water. The aqueous was washed with ether, made basic, and extracted with EtOAc. The extracts were washed with brine, dried, and the solvent evaporated to give a clear oil. The HCl salt (0.42 g) crystallized from EtOAc, m.p. 127°-128° C. (Compound 27).

reactant | NaH | 0.0028 mol, 0.066 g | [H-].[Na+]
reactant | 1-t-butylcarbamoyl-3-hydroxypyrrolidine | 0.0027 mol, 0.5 g | C(C)(C)(C)NC(=O)N1CC(CC1)O | C9H18N2O2
reactant | 3-butyloxy-4-methanesulfonyl-1,2,5-thiadiazole | 0.0027 mol, 0.55 g | C(CCC)OC1=NSN=C1S(=O)(=O)C | C7H12N2O3S2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (±)-3-Butyloxy-4-(3-pyrrolidinyloxy)-1,2,5-thiadiazole | C(CCC)OC1=NSN=C1OC1CNCC1 | C10H17N3O2S
